US06319920B1
To a solution of (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine (0.2 grams, 0.66 mmole) and triethylamine (0.15 grams, 1.48 mmole) in dichloromethane (4 ml) at 0° C. was added dropwise a solution of chlorosulfonic acid (0.08 grams, 0.66 mmol) in dichloromethane (0.5 ml). The mixture was stirred at room temperature for 16 hours, and the solvent was removed under reduced pressure. To the residue was added benzene (4 ml) and phosphorous pentachloride (0.14 grams, 0.67 mmole). The mixture was heated under reflux for 2 hours. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and 1N sodium hydroxide. The organic layer was washed with brine, dried over sodium sulfate and concentrated to give (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-chlorosulfonylpiperidin-4-ylmethyl)amine as a viscous oil (0.18 grams, 70%), M+H 401.

reactant | (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine | 0.66 mmole, 0.2 grams | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCNCC2 | C19H30N2O
reactant | triethylamine | 1.48 mmole, 0.15 grams | C(C)N(CC)CC | C6H15N
reactant | chlorosulfonic acid | 0.66 mmol, 0.08 grams | ClS(=O)(=O)O | ClHO3S
reactant | phosphorous pentachloride | 0.67 mmole, 0.14 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-chlorosulfonylpiperidin-4-ylmethyl)amine | 0.18 grams, 70% | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)S(=O)(=O)Cl | C19H29ClN2O3S
